US07888376B2
To a solution of (S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine (61.2 mg, 0.14 mmol), prepared as described in Procedures 3, 5, 6 and 7, in THF (1 mL), K2CO3 in H2O (28 mg, 2 M in H2O, 0.21 mmol) was added, followed by the addition of isopropenyl chlororoformate (16 μL, 0.15 mmol). The reaction mixture was stirred at room temperature for 2 hr, diluted with EtOAc (25 mL), and the organic portion washed with saturated NaCl (25 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was combined with (2R,3R)-3-amino-4-(benzyloxy)-1,1,1-trifluorobutan-2-ol (22 mg, 0.09 mmol), TEA (38 uL, 0.27 mmol) in THF (1.0 mL) and the reaction mixture was heated at 50° C. for 18 h. The solvent was removed and the residue purified by ISCO chromatography (12 g column) using hexanes/EtOAc (0-30% over 30 min) to give 1-((2R,3R)-1-(benzyloxy)-4,4,4-trifluoro-3-hydroxybutan-2-yl)-3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)urea as a clear oil at a retention time of 23-25 min (36.8 mg, 57% yield) LCMS: RT=2.13 min [M+H] 718.32 (LCMS Method 2); HPLC: RT=4.33 min, Purity 92% (HPLC Method 1) NMR: 400 MHz 1H (CDCl3) 8.25 ppm, 1 H, d, J=2.20 Hz; 7.66 ppm, 1 H, dd, J=8.57, 2.42 Hz; 7.35 ppm, 6 H, m; 7.13 ppm, 5 H, m; 7.06 ppm, 2 H, t, J=7.47 Hz; 6.88 ppm, 1 H, d, J=8.79 Hz; 6.58 ppm, 2 H, t, J=7.03 Hz; 5.87 ppm, 1 H, tt, J=52.95, 2.64 Hz; 5.23 ppm, 1 H, d, J=8.35 Hz; 4.52 ppm, 3 H, m; 4.36 ppm, 1 H, d, J=12.74 Hz; 4.24 ppm, 1 H, dd, J=8.13, 3.30 Hz; 4.04 ppm, 1 H, m; 3.93 ppm, 1 H, dd, J=9.89, 3.74 Hz; 3.75 ppm, 1 H, dd, J=10.11, 2.20 Hz; 3.53 ppm, 1 H, d, J=12.74 Hz.

reactant | (S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine | 0.14 mmol, 61.2 mg | ClC=1C=CC(=NC1)[C@@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C21H16ClF5N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 0.21 mmol, 2 M, 28 mg | O | H2O
reactant | (2R,3R)-3-amino-4-(benzyloxy)-1,1,1-trifluorobutan-2-ol | 0.09 mmol, 22 mg | N[C@@H]([C@H](C(F)(F)F)O)COCC1=CC=CC=C1 | C11H14F3NO2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 1-((2R,3R)-1-(benzyloxy)-4,4,4-trifluoro-3-hydroxybutan-2-yl)-3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)urea | 57% yield | C(C1=CC=CC=C1)OC[C@H]([C@H](C(F)(F)F)O)NC(=O)N[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=NC=C(C=C1)Cl | C33H28ClF8N3O4
